US09428456B2
(1.001b): 1-(3-tert-Butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid
A solution of 1-(3-tert-butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid ethyl ester (7.6 g, 21.4 mmol) in a mixture of water (90 mL) and MeOH (90 mL) at RT is treated at once with LiOH mono hydrate (922 mg, 22 mmol). The mixture is stirred at RT for 18 h then HCl 1N (22 mmol, 22 mL) is added and the reaction mixture is stirred at RT for 30 min. The solvents are removed under reduce pressure and the crude acid is dried under high vacuum. The crude title compound containing LiCl is used for the next step. LC-MS A: tR=0.56 min; [M+H]+=335.26.

reactant | 1-(3-tert-butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid ethyl ester | 21.4 mmol, 7.6 g | C(C)OC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(=O)OC(C)(C)C | C20H30N2O4
reactant | HCl | 22 mmol, 1N, 22 mL | Cl | ClH
solvent | water | 90 mL | O | H2O
solvent | MeOH | 90 mL | CO | CH4O
product | 1-(3-tert-Butoxycarbonylamino-benzyl)-piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)NC=1C=C(CN2CCC(CC2)C(=O)O)C=CC1 | C18H26N2O4
